US06992087B2
Preparation of 3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 6-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine and making non-critical variations provided the title compound as a oil: HRMS (FAB) calcd for C19H25N3O+H 312.2076, found 312.2075; Anal. Calcd for C19H25N3O: C, 73.28; H, 8.09; N, 13.49. Found C, 73.38; H, 8.11; N, 13.32.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 6-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC=1C=C2CCCC(C2=CC1)N | C11H15NO
product | 3,6-diethyl-N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC(=CC=C12)OC | C19H25N3O
